US09034866B2
To a stirred solution of 9-Bromo-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (500 mg, 1.41 mmol) in THF (20 mL) at −70° C., was added MeMgBr (1.8 M in THF, 1.57 mL, 2.82 mmol) dropwise. The reaction was stirred at −70° C. for 3 h, and then warmed to −30° C. for 1 h. The reaction mixture was quenched with saturated aqueous NH4Cl solution at −30° C. and extracted with EtOAc (20 mL×2). The combined organic layers were washed with brine, dried over Na2SO4, concentrated and purified by flash column chromatography (silica gel, EtOAc in hexane from 0 to 30%) to give 9-Bromo-4-hydroxy-4-methyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester as a yellow solid (387 mg, 74%) LC-MS (ESI & APCI): 372.2 (M+2).

reactant | 9-Bromo-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 1.41 mmol, 500 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)=O | C13H8BrNO4S
reactant | MeMgBr | 2.82 mmol, 1.8 M, 1.57 mL | C[Mg+].[Br-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 9-Bromo-4-hydroxy-4-methyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 387 mg, 74% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)(C)O | C14H12BrNO4S
